### PR TITLE
[Merged by Bors] - chore(AlgebraicGeometry): refactor `structureSheaf`

### PR DESCRIPTION
**Pull request by erdOne**
We redefine `structureSheaf` to unify its construction with `tilde`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/StructureSheaf.lean
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/StructureSheaf.lean]: Could you please update this?

File: Mathlib/AlgebraicGeometry/StructureSheaf.lean [hunk 1]
```diff
@@ -47,82 +45,50 @@ and the localization of `R` at the submonoid of powers of `f`.
...
--/
-def Localizations (P : PrimeSpectrum.Top R) : Type u :=
-  Localization.AtPrime P.asIdeal
+@[expose] public section Public
 
-instance commRingLocalizations (P : PrimeSpectrum.Top R) : CommRing <| Localizations R P :=
-  inferInstanceAs <| CommRing <| Localization.AtPrime P.asIdeal
+variable (R) in
+/-- The prime spectrum as an object of `TopCat`. -/
+@[expose] public def PrimeSpectrum.Top : TopCat := TopCat.of (PrimeSpectrum R)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/StructureSheaf.lean]:
```suggestion
public def PrimeSpectrum.Top : TopCat := TopCat.of (PrimeSpectrum R)
```
This is already in an `@[expose]` section.

File: Mathlib/AlgebraicGeometry/StructureSheaf.lean [hunk 2]
```diff
@@ -141,697 +107,794 @@ Now Hartshorne had the disadvantage of not knowing about dependent functions,
...
+lemma structureSheafInType.mul_apply {U : Opens (PrimeSpectrum.Top R)} (s t : Γ(A, U)) (x : U) :
+  (s * t).1 x = s.1 x * t.1 x := rfl
 
+@[simp]
+lemma structureSheafInType.smul_apply {U : Opens (PrimeSpectrum.Top R)}
+    (r : R) (s : Γ(M, U)) (x : U) :
+  (r • s).1 x = r • s.1 x := rfl
+
+variable (R M) in
 /-- The structure presheaf, valued in `CommRingCat`, constructed by dressing up the `Type`-valued
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/StructureSheaf.lean]:
```suggestion
/-- The structure presheaf, valued in `ModuleCat`, constructed by dressing up the `Type`-valued
```

File: Mathlib/AlgebraicGeometry/StructureSheaf.lean [hunk 3]
```diff
@@ -141,697 +107,794 @@ Now Hartshorne had the disadvantage of not knowing about dependent functions,
...
+  map i := CommRingCat.ofHom
+    { toFun := (structureSheafInType R R).1.map i
+      map_add' _ _ := rfl
+      map_mul' _ _ := rfl
       map_one' := rfl
-      map_mul' := fun _ _ => rfl }
-
+      map_zero' := rfl }
+
+instance (U : _) :
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/StructureSheaf.lean]: Could you put a type here?

File: Mathlib/AlgebraicGeometry/StructureSheaf.lean [hunk 4]
```diff
@@ -141,697 +107,794 @@ Now Hartshorne had the disadvantage of not knowing about dependent functions,
...
+def toBasicOpenₗ (f : R) :
+    LocalizedModule (.powers f) M →ₗ[R] Γ(M, PrimeSpectrum.basicOpen f) :=
+  IsLocalizedModule.lift (.powers f) (LocalizedModule.mkLinearMap ..) (toOpenₗ R M _) <| by
+    simp only [Subtype.forall]
+    exact Submonoid.powers_le (P := (IsUnit.submonoid _).comap (algebraMap R _)).mpr
+      (isUnit_toBasicOpen_end ..)
+
+-- move me
+lemma PrimeSpectrum.le_basicOpen_pow (r : R) (n : ℕ) : basicOpen r ≤ basicOpen (r ^ n) := by
+  cases n <;> simp
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/StructureSheaf.lean]: `--move me` :)

File: Mathlib/AlgebraicGeometry/StructureSheaf.lean [hunk 5]
```diff
@@ -141,697 +107,794 @@ Now Hartshorne had the disadvantage of not knowing about dependent functions,
...
+  have := (isUnit_toBasicOpen f).map
+    (algebraMap _ (Module.End Γ(R, basicOpen f) Γ(M, basicOpen f)))
+  rw [Module.End.isUnit_iff] at this ⊢
+  convert this
+  ext a
+  simp
+
+variable (R M) in
+/-- The canonical ring homomorphism interpreting `s ∈ R_f` as a section of the structure sheaf
+on the basic open defined by `f ∈ R`. -/
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/StructureSheaf.lean]:
```suggestion
/-- The canonical linear map interpreting `s ∈ R_f` as a section of the structure sheaf
on the basic open defined by `f ∈ R`. -/
```

File: Mathlib/AlgebraicGeometry/StructureSheaf.lean [hunk 6]
```diff
@@ -141,697 +107,794 @@ Now Hartshorne had the disadvantage of not knowing about dependent functions,
...
+
+end Public
+
+local notation "Γ("M", "U")" => (Functor.obj (Sheaf.val (structureSheafInType _ M))) (Opposite.op U)
+
+namespace StructureSheaf
+
+section basicOpen
+
+lemma isUnit_toBasicOpen (f : R) :
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/StructureSheaf.lean]:
```suggestion
lemma isUnit_basicOpen (f : R) :
```
where does the `to` come from? Also in the next lemma.

File: Mathlib/AlgebraicGeometry/StructureSheaf.lean [hunk 7]
```diff
@@ -141,697 +107,794 @@ Now Hartshorne had the disadvantage of not knowing about dependent functions,
...
+      structurePresheafInModuleCat R M))⟩
+  refine α.addCommGroupIsoToAddEquiv.eq_symm_apply.mpr ?_
+  change α.hom _ = _
+  have : TopCat.Presheaf.germ (moduleStructurePresheaf R M).presheaf ⊤ x (by simp) ≫ α.hom =
+      (forget₂ _ _).map ((structurePresheafInModuleCat R M).germ ⊤ x (by simp)) :=
+    Limits.colimit.isoColimitCocone_ι_hom (C := Ab) ..
+  exact congr($this _)
+
+-- move me
+public instance forget₂SemiRing_preservesFilteredColimits :
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/StructureSheaf.lean]: `--move me` :)

File: Mathlib/AlgebraicGeometry/StructureSheaf.lean [hunk 8]
```diff
@@ -949,31 +995,73 @@ At the moment, we work with arbitrary dependent functions `s : Π x : U, Localiz
...
-  specialize h_frac ⟨PrimeSpectrum.comap f q, hqW⟩
-  refine ⟨h_frac.1, ?_⟩
-  dsimp only [comapFun]
-  erw [← Localization.localRingHom_to_map (PrimeSpectrum.comap f q).asIdeal _ _ rfl,
-    ← map_mul, h_frac.2, Localization.localRingHom_to_map]
-  rfl
+  obtain ⟨hs, H⟩ := h_frac ⟨PrimeSpectrum.comap σ q, hqW⟩
+  refine ⟨hs, ?_⟩
+  dsimp [comapFun] at H ⊢
+  erw [H]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/StructureSheaf.lean]:
```suggestion
  rw [H]
```

File: Mathlib/AlgebraicGeometry/AffineScheme.lean [hunk 9]
```diff
@@ -622,7 +622,7 @@ theorem exists_basicOpen_le {V : X.Opens} (x : V) (h : ↑x ∈ U) :
 
 noncomputable
 instance {R : CommRingCat} {U} : Algebra R Γ(Spec R, U) :=
-  ((Scheme.ΓSpecIso R).inv ≫ (Spec R).presheaf.map (homOfLE le_top).op).hom.toAlgebra
+  inferInstanceAs (Algebra R ((Spec.structureSheaf R).presheaf.obj _))
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineScheme.lean:625]: Do we really want this? Does the old version not work anymore?

File: Mathlib/AlgebraicGeometry/Modules/Tilde.lean [hunk 10]
```diff
@@ -218,219 +75,29 @@ If `U` is an open subset of `Spec R`, this is the morphism of `R`-modules from `
...
-    (hf := localizedModuleIsLocalizedModule (M := M) x.asIdeal.primeCompl)
-    (e := (stalkIso M x).symm.toLinearEquiv)
-  ext
-  simp only [of_coe,
-    show (stalkIso M x).symm.toLinearEquiv.toLinearMap = (stalkIso M x).inv.hom by rfl]
-  erw [LocalizedModule.lift_comp]
+    IsLocalizedModule x.asIdeal.primeCompl (toStalk M x).hom :=
+  inferInstanceAs (IsLocalizedModule x.asIdeal.primeCompl (StructureSheaf.toStalkₗ ..))
 
 end Tilde
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Modules/Tilde.lean:105]: Can we now provide `IsLocalizedModule.Away f (M.tilde.presheaf.obj (op (basicOpen f))`?

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean [hunk 11]
```diff
@@ -163,7 +165,7 @@ def toΓSpecCBasicOpens :
   naturality r s f := by
     apply (StructureSheaf.to_basicOpen_epi (Γ.obj (op X)) r.unop).1
     simp only [← Category.assoc]
-    rw [X.toΓSpecCApp_spec r.unop]
+    erw [X.toΓSpecCApp_spec r.unop]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean]: We could have
```
lemma foo {R : Type u} [CommRing R] (U : (Opens (PrimeSpectrum R))ᵒᵖ) :
    algebraMap R ((structureSheaf R).val.obj U) =
      algebraMap R ((structureSheafInType R R).val.obj U) :=
  rfl
```
to get rid of this `erw`. But the lemma is of course also not reducibly type correct.

File: Mathlib/AlgebraicGeometry/AffineScheme.lean (hunk 9 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/AffineScheme.lean:625]: This is strictly better I think? It has the correct defeqs for the smul field.

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean (hunk 11 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean]: I rewrote with the lemma in line.

**Review by chrisflav — APPROVED** [review]
Thanks a lot for doing this! This is definitely the right thing to do. There can be some more cleanup, but this can be in a follow-up. So, let's not make this rot.

maintainer merge

File: Mathlib/Algebra/Category/Ring/FilteredColimits.lean [hunk 12]
```diff
@@ -295,6 +295,15 @@ instance forget₂SemiRing_preservesFilteredColimits :
           (SemiRingCat.FilteredColimits.colimitCoconeIsColimit
             (F ⋙ forget₂ RingCat SemiRingCat.{u})) }
 
+instance : Limits.PreservesFilteredColimits (forget₂ RingCat AddCommGrpCat.{u}) where
+  preserves_filtered_colimits {J hJ1 _} :=
+    letI : Category J := hJ1
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Ring/FilteredColimits.lean]:
```suggestion
  preserves_filtered_colimits _ :=
```
